US07507740B2
Production of 2-[2-(4-{[4-[(6-methylpyridin-3-yl)oxy]-3-(trifluoromethyl)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethanol
A mixture of 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate (150 mg), 4-[(6-methylpyridin-3-yl)oxy]-3-(trifluoromethyl)aniline (175 mg) and 1-methyl-2-pyrrolidone (0.863 mL) was stirred with heating at 140° C. for 2.5 hrs. The reaction mixture was diluted with ethyl acetate (80 mL) and washed with aqueous sodium hydrogen carbonate (30 mL). The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→90/10). The object fraction was concentrated under reduced pressure. The obtained residue was dissolved in methanol (1.9 mL), 1N sodium hydroxide (0.433 mL) was added, and the mixture was stirred at room temperature for 1.5 hrs. 1N hydrochloric acid (0.433 mL) was added, and the mixture was diluted with ethyl acetate (80 mL) and washed with saturated brine (30 mL). The organic layer was dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography (ethyl acetate/methanol=100/0→90/10) and crystallized from diisopropyl ether to give the title compound (118 mg).

reactant | 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate | 150 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)Cl | C17H16ClN3O3
reactant | 4-[(6-methylpyridin-3-yl)oxy]-3-(trifluoromethyl)aniline | 175 mg | CC1=CC=C(C=N1)OC1=C(C=C(N)C=C1)C(F)(F)F | C13H11F3N2O
reactant | 1-methyl-2-pyrrolidone | 0.863 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-{[4-[(6-methylpyridin-3-yl)oxy]-3-(trifluoromethyl)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethanol | 118 mg | CC1=CC=C(C=N1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=CN2CCOCCO)C(F)(F)F | C23H22F3N5O3
